* Schematics Netlist *



R_R1         $N_0001 n1  1k  
V_V1         $N_0001 0 15V
V_V2         $N_0002 0 5V
R_R5         n2 $N_0002  5.6k  
R_R3         n1 n2  2.2k  
R_R2         0 n1  1.8k  
R_R4         0 n2  3.3K  
